US05175157
b) 3-[(N-(2-(3-Methoxy-4-hydroxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
Prepared from 3-[(N-(2-(4-benzyloxy-3-methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-I,3,4,5-tetrahydro-2H-3-benzazepin-2-one in glacial acetic acid analogously to Example 8.

reactant | 3-[(N-(2-(4-benzyloxy-3-methoxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-I,3,4,5-tetrahydro-2H-3-benzazepin-2-one | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC)OC | C34H42N2O5
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[(N-(2-(3-Methoxy-4-hydroxy-phenyl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC=1C=C(C=CC1O)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C27H36N2O5
